### PR TITLE
feat: Absolute values are multiplicative ring norms

### PR DESCRIPTION
**Pull request by YaelDillies**
Match https://github.com/leanprover-community/mathlib/pull/16919

### CODE REVIEW

File: Mathlib/Algebra/Order/Hom/Basic.lean [hunk 1]
```diff
@@ -118,3 +139,140 @@ theorem le_map_div_add_map_div [Group α] [AddCommSemigroup β] [LE β] [MulLEAd
...
+  rw [abs_sub_le_iff, sub_le_iff_le_add', sub_le_iff_le_add']
+  exact ⟨le_map_add_map_div _ _ _, le_map_add_map_div' _ _ _⟩
+
+@[to_additive] -- See note [lower instance priority]
+instance (priority := 100) GroupSeminormClass.to_NonNegHomClass [Group α]
+  [LinearOrderedAddCommMonoid β] [GroupSeminormClass F α β] :
+  NonNegHomClass F α β :=
+{ ‹GroupSeminormClass F α β› with
+  map_nonneg := fun f a ↦ (nsmul_nonneg_iff two_ne_zero).1 $
+    by rw [two_nsmul, ←map_one_eq_zero f, ←div_self' a]; exact map_div_le_add _ _ _ }
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Hom/Basic.lean:219]: There seems to be a bug with `to_additive` here.
```
application type mismatch
  HVAdd.hVAdd
argument has type
  HSMul ℕ ((fun x => β) a) ((fun x => β) a)
but function has type
  [self : HVAdd ℕ ((fun x => β) a) ((fun x => β) a)] → ℕ → (fun x => β) a → (fun x => β) a
```

File: Mathlib/Algebra/Order/Hom/Basic.lean [hunk 2]
```diff
@@ -118,3 +139,140 @@ theorem le_map_div_add_map_div [Group α] [AddCommSemigroup β] [LE β] [MulLEAd
...
+  [OrderedSemiring β] extends AddGroupSeminormClass F α β, MonoidWithZeroHomClass F α β
+
+/-- `MulRingNormClass F α` states that `F` is a type of `β`-valued multiplicative norms on the
+ring `α`.
+
+You should extend this class when you extend `mul_ring_norm`. -/
+class MulRingNormClass (F : Type _) (α β : outParam $ Type _) [NonAssocRing α]
+  [OrderedSemiring β] extends MulRingSeminormClass F α β, AddGroupNormClass F α β
+
+-- TODO: Somehow this does not get inferred.
```
Comment (Vierkantor) [inline Mathlib/Algebra/Order/Hom/Basic.lean:263]: Could you explain what this means specifically? Do you have an example of this instance not applying when it should?

File: Mathlib/Algebra/Order/Hom/Basic.lean (hunk 1 above)
Comment (riccardobrasca) [reply Mathlib/Algebra/Order/Hom/Basic.lean:219]: Can you merge master and check if the error is still there?

Comment (fpvandoorn) [reply Mathlib/Algebra/Order/Hom/Basic.lean:219]: #1332 should fix this error. There are still type-class errors in the rest of the file.

File: Mathlib/Algebra/Order/Hom/Basic.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Hom/Basic.lean:263]: I get the same problem as in Lean 3. The following fails:
```
instance (priority := 100) RingSeminormClass.to_NonnegHomClass [NonUnitalNonAssocRing α]
  [LinearOrderedSemiring β] [RingSeminormClass F α β] : NonnegHomClass F α β :=
inferInstance
```

File: Mathlib/Algebra/Order/Hom/Basic.lean [hunk 3]
```diff
@@ -118,3 +139,140 @@ theorem le_map_div_add_map_div [Group α] [AddCommSemigroup β] [LE β] [MulLEAd
...
+
+example [OrderedAddCommGroup β] : OrderedAddCommMonoid β := inferInstance
+
+@[to_additive] lemma abs_sub_map_le_div [Group α] [LinearOrderedAddCommGroup β]
+  [GroupSeminormClass F α β] (f : F) (x y : α) : |f x - f y| ≤ f (x / y) := by
+  rw [abs_sub_le_iff, sub_le_iff_le_add', sub_le_iff_le_add']
+  exact ⟨le_map_add_map_div _ _ _, le_map_add_map_div' _ _ _⟩
+
+@[to_additive] -- See note [lower instance priority]
+instance (priority := 100) GroupSeminormClass.to_NonnegHomClass [Group α]
```
Comment (Vierkantor) [inline Mathlib/Algebra/Order/Hom/Basic.lean:214]: Since this is a def, not a prop, shouldn't it be:
```suggestion
instance (priority := 100) GroupSeminormClass.toNonnegHomClass [Group α]
```

File: Mathlib/Algebra/Order/Hom/Basic.lean [hunk 4]
```diff
@@ -118,3 +139,140 @@ theorem le_map_div_add_map_div [Group α] [AddCommSemigroup β] [LE β] [MulLEAd
...
+export GroupSeminormClass        (map_one_eq_zero map_inv_eq_map)
+export AddGroupNormClass        (eq_zero_of_map_eq_zero)
+export GroupNormClass            (eq_one_of_map_eq_zero)
+
+attribute [simp] map_one_eq_zero
+attribute [simp] map_neg_eq_map
+attribute [simp] map_inv_eq_map
+
+-- See note [lower instance priority]
+instance (priority := 100) AddGroupSeminormClass.to_ZeroHomClass [AddGroup α]
```
Comment (Vierkantor) [inline Mathlib/Algebra/Order/Hom/Basic.lean:189]: Idem:
```suggestion
instance (priority := 100) AddGroupSeminormClass.toZeroHomClass [AddGroup α]
```

File: Mathlib/Algebra/Order/Hom/Basic.lean [hunk 5]
```diff
@@ -118,3 +139,140 @@ theorem le_map_div_add_map_div [Group α] [AddCommSemigroup β] [LE β] [MulLEAd
...
+AddGroupSeminormClass.to_NonnegHomClass
+
+-- See note [lower instance priority]
+instance (priority := 100) MulRingSeminormClass.to_RingSeminormClass [NonAssocRing α]
+  [OrderedSemiring β] [MulRingSeminormClass F α β] : RingSeminormClass F α β :=
+{ ‹MulRingSeminormClass F α β› with
+  map_mul_le_mul := fun f a b ↦ (map_mul _ _ _).le }
+
+-- See note [lower instance priority]
+instance (priority := 100) MulRingNormClass.to_RingNormClass [NonAssocRing α] [OrderedSemiring β]
```
Comment (Vierkantor) [inline Mathlib/Algebra/Order/Hom/Basic.lean:276]: Idem:
```suggestion
instance (priority := 100) RingSeminormClass.toNonnegHomClass [NonUnitalNonAssocRing α]
  [LinearOrderedSemiring β] [RingSeminormClass F α β] : NonnegHomClass F α β :=
AddGroupSeminormClass.to_NonnegHomClass

-- See note [lower instance priority]
instance (priority := 100) MulRingSeminormClass.toRingSeminormClass [NonAssocRing α]
  [OrderedSemiring β] [MulRingSeminormClass F α β] : RingSeminormClass F α β :=
{ ‹MulRingSeminormClass F α β› with
  map_mul_le_mul := fun f a b ↦ (map_mul _ _ _).le }

-- See note [lower instance priority]
instance (priority := 100) MulRingNormClass.toRingNormClass [NonAssocRing α] [OrderedSemiring β]
```

File: Mathlib/Algebra/Order/Hom/Basic.lean (hunk 2 above)
Comment (Vierkantor) [reply Mathlib/Algebra/Order/Hom/Basic.lean:263]:
```suggestion
-- This instance is simply the composition of the instances
-- `AddGroupSeminormClass.toNonnegHomClass` and `RingSeminormClass.toAddGroupSeminormClass`.
-- However, it has to be declared explicitly due to hitting an edge case in the inference algorithm:
-- those instances both depend on a different subclass of `OrderedAddMonoid β`, but `β` is an
-- `out_param` that cannot be inferred until both instances are applied.
-- So we have to do it manually until Lean becomes smarter.
```

File: Mathlib/Algebra/Order/Hom/Basic.lean (hunk 1 above)
Comment (fpvandoorn) [reply Mathlib/Algebra/Order/Hom/Basic.lean]: #1332 is now merged

File: Mathlib/Algebra/Order/Hom/Basic.lean [hunk 6]
```diff
@@ -118,3 +137,157 @@ theorem le_map_div_add_map_div [Group α] [AddCommSemigroup β] [LE β] [MulLEAd
...
+-- So we have to do it manually until Lean becomes smarter.
+-- See note [lower instance priority]
+@[to_additive] instance (priority := 100) GroupNormClass.toNonnegHomClass [Group α]
+  [LinearOrderedAddCommMonoid β] [GroupNormClass F α β] : NonnegHomClass F α β :=
+GroupSeminormClass.toNonnegHomClass
+
+@[to_additive] lemma map_pos_of_ne_one [Group α] [LinearOrderedAddCommMonoid β]
+  [GroupNormClass F α β] (f : F) {x : α} (hx : x ≠ 1) : 0 < f x :=
+(@map_nonneg F α β _ _ GroupSeminormClass.toNonnegHomClass f x).lt_of_ne
+  ((map_ne_zero_iff_ne_one _).2 hx).symm
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Hom/Basic.lean:243]: @Vierkantor, this is even worse that the previous. Even when I give the exact instance just above, Lean fails to find it.

Comment (Vierkantor) [reply Mathlib/Algebra/Order/Hom/Basic.lean:243]: This is because Lean 4 handles `outParam`s somewhat differently: if you check the dangerousInstances linter, you'll see that there are a lot of errors. You'll need to modify these instances such as `GroupNormClass.toNonnegHomClass` so that the instance parameters `[Group α] [LinearOrderedAddCommMonoid β]` that depend only on `outParam`s must become implicit parameters `{_ : Group α} {_ : LinearOrderedAddCommMonoid β}` instead.

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Hom/Basic.lean:243]: Oh this is going to be a headache.

**Comment by YaelDillies** [comment]
I don't understand why the error happens. Would anyone know?

**Comment by LukasMias** [comment]
I tried to understand the issues in this file, my explanation for the larger changes:

- I think the first thing to try with coercion errors of `Hom`s is to implement the whole `AbsoluteValueClass` and `instance absoluteValueClass: AbsoluteValueClass (AbsoluteValue R S) R S` business, which I understand as the way to go. In principle, that should give `AbsoluteValue` morphisms the necessary `FunLike` functions to automatically coerce. What did confuse me is that it was still not able to infer `FunLike (AbsoluteValue R S) R (fun _ => S)` despite everything it needs being there. When you explicitly declare it, things start working. I don't know what's up with that, but lean4 seems to generally have a harder time inferring instances which are not explicitly given somewhere.

- I'm seeing discussions on Zulip that `coe_mk` lemmas _should_ become syntactic equalities in lean4 and hence removed no matter what, but this seems handled somewhat inconsistently in mathlib4. But well, this was the one lemma in the file which I was absolutely not getting to work, so if we could just get rid of it, it would at least be convenient :)

- The `⇑` in `coe_toMonoidHom` needs to go, since the idea of these lemmas is not about coercing them to functions, but saying that the different `toMonoidHom` functions give the same result (that is my understanding, at least). Same for `coe_toMonoidWithZeroHom`

That being said, as things are, things still break downstream for reasons I do not yet understand. Feel free to revert my changes if they turn out to only make things worse.

**Comment by YaelDillies** [comment]
I was putting off defining `absolute_value_class` because of the following:
```
import algebra.order.absolute_value

instance ohuh {R S : Type*} [ring R] [ordered_comm_ring S] [nontrivial R] [is_domain S] :
  mul_ring_norm_class (absolute_value R S) R S :=
{ map_neg_eq_map := λ f, f.map_neg,
  eq_zero_of_map_eq_zero := λ f a, f.eq_zero.1,
  ..absolute_value.subadditive_hom_class, ..absolute_value.monoid_with_zero_hom_class }

def uhoh {R S F : Type*} [ring R] [linear_ordered_semiring S] [mul_ring_norm_class F R S] (f : F) :
  absolute_value R S :=
{ to_fun := f,
  map_mul' := map_mul f,
  nonneg' := map_nonneg f,
  eq_zero' := λ _, map_eq_zero_iff_eq_zero f,
  add_le' := map_add_le_add f }
```
Under strong enough assumptions, multiplicative ring norms and absolute values are exactly the same concept. Here's [a Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/116395-maths/topic/Absolute.20values.20.26.20multiplicative.20ring.20norms) about it.

File: Mathlib/Algebra/Order/AbsoluteValue.lean [hunk 7]
```diff
@@ -4,7 +4,7 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Mario Carneiro, Anne Baanen
 
 ! This file was ported from Lean 3 source module algebra.order.absolute_value
-! leanprover-community/mathlib commit fc2ed6f838ce7c9b7c7171e58d78eaf7b438fb0e
+! leanprover-community/mathlib commit 7ea604785a41a0681eac70c5a82372493dbefc68
```
Comment (eric-wieser) [inline Mathlib/Algebra/Order/AbsoluteValue.lean:7]: https://leanprover-community.github.io/mathlib-port-status/file/algebra/order/absolute_value?range=fc2ed6f838ce7c9b7c7171e58d78eaf7b438fb0e..7ea604785a41a0681eac70c5a82372493dbefc68

File: Mathlib/Algebra/Order/AbsoluteValue.lean [hunk 8]
```diff
@@ -76,10 +121,11 @@ instance subadditiveHomClass : SubadditiveHomClass (AbsoluteValue R S) R S :=
...
 #align absolute_value.subadditive_hom_class AbsoluteValue.subadditiveHomClass
 
-@[simp]
-theorem coe_mk (f : R →ₙ* S) {h₁ h₂ h₃} : (AbsoluteValue.mk f h₁ h₂ h₃ : R → S) = f :=
-  rfl
-#align absolute_value.coe_mk AbsoluteValue.coe_mk
+-- Porting note: Not needed in lean 4 anymore
+-- @[simp]
+-- theorem coe_mk (f : R →ₙ* S) {h₁ h₂ h₃} : (AbsoluteValue.mk f h₁ h₂ h₃ : R → S) = f :=
+--   rfl
```
Comment (eric-wieser) [inline Mathlib/Algebra/Order/AbsoluteValue.lean:127]: This isn't true

File: Mathlib/Algebra/Order/AbsoluteValue.lean (hunk 7 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Order/AbsoluteValue.lean:7]: I'm confused; this says that the only change to this file is a single instance, so where did the other changes come from? Was the sychronization comment wrong?

Comment (YaelDillies) [reply Mathlib/Algebra/Order/AbsoluteValue.lean:7]: I think so, yes.

Comment (YaelDillies) [reply Mathlib/Algebra/Order/AbsoluteValue.lean:7]: I think so, yes.

Comment (eric-wieser) [reply Mathlib/Algebra/Order/AbsoluteValue.lean:7]: Do you know what the right value is? If so, a PR that just corrects it would make further review easier.

**Comment by urkud** [comment]
I forward-ported some other changes to `Algebra/Order/AbsoluteValue` in #2511. Once you're done with this PR, please update SHA sum in this file to the latest value (after checking that there were no other changes). Thank you!

File: Mathlib/Algebra/Order/Hom/Basic.lean
Comment (eric-wieser) [inline Mathlib/Algebra/Order/Hom/Basic.lean:1]: I think the changes to this file were forward-ported in #2401
